Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Neck pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with PMHx of endometrial cancer, breast cancer, DM, HTN who 
presents to the ED from OSH with a C-spine fracture. She reports 
she fell last night while at home, as accidently tripped over 
rug at home and hit her head against a wooden post. She was 
unable to get up unassisted. She did not lose consciousness. She 
did not come immediately to the hospital as she did not think 
she had a concussion. She had pain in her neck that 
progressively got worse. She went to the OSH where she was found 
to have C1-C2 nondisplaced fx. No other injuries found. She 
denies any weakness/numbness in her extremities. 
 
In the ED, initial vitals were: 98.2 77 151/80 18 97% RA  
Labs notable for: Normal CBC, K 3.2, UA with few bacteria  
Studies notable for: Unremarkable chest xray  
Patient given: morphine IV x3, Percocet x2, Zofran, K 40meq, 
D5NS + K 40meq for 1L.  
After giving pain medications with Percocet she was noted to be 
sedated and reportedly desat to the ___ and put on oxygen.  
Spine was consulted and said the fractures can be managed 
non-operatively. Recommended a C-collar at all times. Follow up 
with Dr. ___ in two weeks. 
She was admitted due to persistent O2 requirement. 
On the floor, she states she has neck pain with swallowing. She 
denies any other symptoms.  
 
 
Past Medical History:
Chronic lower back pain  
Hiatal hernia  
Erosive gastritis  
Iron deficiency  
H/o endometrial cancer s/p hysterectomy  
h/o breast cancer s/p lumpectomy/chemo/radiation  
HTN  
DM 2  
HLD  
Glaucoma  
Anxiety/depression
 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
>> ADMISSION PHYSICAL EXAM:
Vital Signs: 98.1 129/61 83 16 94%RA  
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL, 
neck supple, JVP not elevated, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation, 2+ reflexes bilaterally, gait 
deferred. 
.
>> DISCHARGE PHYSICAL EXAM:
Vital Signs: Tmax 98.8 ___ 20 94-100% RA
General: Lying in bed, wearing C collar, NAD
HEENT: L subconjunctival hemorrhage. PERRL, EOMI. MMM, 
oropharynx clear
Pulm: CTAB, good air movement throughout
Cor: Regular rate and rhythm, normal S1 + S2, soft systolic 
murmur at LUSB
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
GU: No foley  
Ext: Warm, well perfused, no edema 
Neuro: Diminished hearing on left. Otherwise CNII-XII intact, 
strength ___ throughout, sensation intact to light touch
 
 
Pertinent Results:
>> ADMISSION LABS:
___ 12:00PM BLOOD WBC-6.4 RBC-4.32 Hgb-11.8 Hct-36.3 MCV-84 
MCH-27.3 MCHC-32.5 RDW-14.0 RDWSD-42.9 Plt ___
___ 12:00PM BLOOD Neuts-70.6 Lymphs-17.1* Monos-9.3 Eos-2.2 
Baso-0.3 Im ___ AbsNeut-4.49 AbsLymp-1.09* AbsMono-0.59 
AbsEos-0.14 AbsBaso-0.02
___ 12:00PM BLOOD Glucose-147* UreaN-14 Creat-0.7 Na-141 
K-3.2* Cl-100 HCO3-29 AnGap-15
___ 04:59AM BLOOD Calcium-9.3 Phos-3.1 Mg-1.6
.
>> DISCHARGE LABS:
___ 04:59AM BLOOD WBC-6.7 RBC-4.00 Hgb-11.1* Hct-34.6 
MCV-87 MCH-27.8 MCHC-32.1 RDW-14.4 RDWSD-45.2 Plt ___
___ 04:59AM BLOOD Glucose-142* UreaN-15 Creat-0.7 Na-140 
K-3.6 Cl-100 HCO3-30 AnGap-14
.
>> IMAGING:
___ CXR 
No acute cardiopulmonary process.  Large hiatal hernia. 

 
Brief Hospital Course:
___ with PMHx of endometrial cancer, breast cancer, DM, HTN who 
presents after mechanical fall, found to have C-spine fracture 
and hypoxemia in the ED.
.
>> ACTIVE ISSUES:
# C1/C2 fractures: Was evaluated by ortho spine service in the 
ED and cleared to go home in a C collar from their perspective. 
On the floor, she had 8 to 9 out of 10 headache and neck pain 
that was alleviated with acetaminophen, oxycodone and IV 
morphine for breakthrough. IV morphine was discontinued after 24 
hours and tramadol was added to her regimen. By the time of 
discharge, her pain was well controlled on acetaminophen, 
tramadol and oxycodone. She had no new neurologic deficits while 
on the floor.

# Hypoxia: Patient desatted to ___ in ED after receiving 
morphine x3 and Percocet. By the time she reached the floor, she 
was satting in the mid ___ on room air. Most likely her 
transient hypoxemia was due to hypoventilation secondary to 
narcotics and acute pain. Her O2 sats remained in the mid to 
high ___ for the remainder of the hospitalization on room air.

# Hypertension: Has a history of hypertension on 
triamterene/HCTZ. BPs on the floor were elevated, as high as 190 
systolic. This was thought secondary to pain and a missed dose 
of her home med while in the ED. Her BPs stabilized with 
improved pain control and she was discharged on her home 
regimen.

>> CHRONIC ISSUES:
# DM: Pt was transitioned to an insulin sliding scale while in 
house, with blood glucose in the mid ___. Resumed PO meds on 
discharge.
.
>> TRANSITIONAL ISSUES:
# C1/C2 fractures: follow up with Dr. ___ in orthopedics 
clinic in 2 weeks for repeat evaluation. 
# Pain: follow up in primary care to evaluate pain control needs 
and consider extending course of oxycodone.
# CODE: DNR/DNI 
# CONTACT: ___, Brother, ___  

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. MetFORMIN (Glucophage) 500 mg PO BID 
2. Atorvastatin 20 mg PO QPM 
3. FLUoxetine 40 mg PO DAILY 
4. Dorzolamide 2%/Timolol 0.5% Ophth. 1 DROP BOTH EYES BID 
5. Triamterene-HCTZ (37.5/25) 1 CAP PO DAILY 
6. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 

 
Discharge Medications:
1. Atorvastatin 20 mg PO QPM 
2. Dorzolamide 2%/Timolol 0.5% Ophth. 1 DROP BOTH EYES BID 
3. FLUoxetine 40 mg PO DAILY 
4. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
5. Triamterene-HCTZ (37.5/25) 1 CAP PO DAILY 
6. MetFORMIN (Glucophage) 500 mg PO BID 
7. OxyCODONE (Immediate Release) 5 mg PO Q3H:PRN pain 
RX *oxycodone 5 mg 1 tablet(s) by mouth Q3H Disp #*10 Tablet 
Refills:*0
8. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
9. Aspirin 81 mg PO DAILY 
10. TraMADol 50 mg PO BID 
RX *tramadol 50 mg 1 tablet(s) by mouth twice a day Disp #*6 
Tablet Refills:*0
11. Ferrous Sulfate 325 mg PO DAILY 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
1. C1/C2 vertebral fractures
2. Acute hypoxemic respiratory failure
SECONDARY DIAGNOSIS:
3. Hypertension
4. Diabetes mellitus type 2

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you at ___ 
___. You were admitted for C1 and C2 spine fractures. 

The Bone Spine doctors saw ___ and did not think you needed and 
operation but recommended a neck collar to keep bone stable.

We gave you medications for pain and you are feeling better. 
You are going to rehab from the hospital and should keep all 
your scheduled appointments.

We wish you the best,
Your ___ Team

 
Followup Instructions:
___